* K:\Git_personal\BASIC_MRI_RFPA\LTSPICE simulations\compare_FET_gm.asc
M1 d1 g1 N001 N001 IRF510
V1 d 0 40
V2 g 0 0 AC 1
VG1 g1 g {VG1}
M2 d2 g2 N002 N002 IRF530
VG2 g2 g {VG2}
VG3 g3 g {VG3}
VG4 g4 g {VG4}
XM4 d4 g4 N004 IRF540n
VS2 N002 0 0
VS1 N001 0 0
VS3 N003 0 0
VS4 N004 0 0
L1 d d1 {Ld}
R1 d d1 {Rd}
L2 d d2 {Ld}
R2 d d2 {Rd}
L3 d d3 {Ld}
R3 d d3 {Rd}
L4 d d4 {Ld}
R4 d d4 {Rd}
VG5 g5 g {VG5}
XM5 d5 g5 N005 IRF630
VS5 N005 0 0
L5 d d5 {Ld}
R5 d d5 {Rd}
VG6 g6 g {VG6}
XM6 d6 g6 N006 IRF630n
VS6 N006 0 0
L6 d d6 {Ld}
R6 d d6 {Rd}
VG7 g7 g {VG7}
VS7 N007 0 0
L7 d d7 {Ld}
R7 d d7 {Rd}
XM3 d3 g3 N003 IRF530n_fairchild
XM7 d7 g7 N007 IRF520n
VG8 g8 g {VG8}
VS8 N008 0 0
L8 d d8 {Ld}
R8 d d8 {Rd}
XM8 d8 g8 N008 IRF520
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Joshua Rhodes\Documents\LTspiceXVII\lib\cmp\standard.mos
* ; for ID=1amp\n.param VG1=4.88\n.param VG2=4.533\n.param VG3=3.75\n.param VG4=3.72\n.param VG5=4.77\n.param VG6=3.80\n.param VG7=3.92\n.param VG8=4.44
* ; SPICE models/subcircuits to include\n.lib /Models and subcircuits/irf630N.sub\n.lib /Models and subcircuits/irf630.sub\n.lib /Models and subcircuits/irf620.sub\n.lib /Models and subcircuits/irf540n.sub\n.lib /Models and subcircuits/irf530n.sub\n.lib /Models and subcircuits/irf530n_fairchild.sub\n.lib /Models and subcircuits/irf520n.sub\n.lib /Models and subcircuits/irf520.sub
* .ac dec 1k 100k 200meg
;.dc V2 0 6 0.01
.ac dec 1k 100k 200meg
.param Ld=1m
.param Rd=12.5
; for ID=3.1amp
.param VG1=5.77
.param VG2=4.955
.param VG3=3.97
.param VG4=3.86
.param VG5=5.425
.param VG6=4.03
.param VG7=4.77
.param VG8=5.30
.inc /Models and subcircuits/all_hexfet_subcircuits.inc
.backanno
.end
