*Feb 19, 2010 *Doc. ID: 90191, Rev. A *File Name: part irf620_sihf620_PS.txt and part irf620_sihf620_PS.spi 
*This document is intended as a SPICE modeling guideline and does not 
*constitute a commercial product datasheet. Designers should refer to the 
*appropriate data sheet of the same number for guaranteed specification 
*limits. 
.SUBCKT irf620 1 2 3 
************************************** 
* Model Generated by MODPEX * 
*Copyright(c) Symmetry Design Systems* 
* All Rights Reserved * 
* UNPUBLISHED LICENSED SOFTWARE * 
* Contains Proprietary Information * 
* Which is The Property of * 
* SYMMETRY OR ITS LICENSORS * 
*Commercial Use or Resale Restricted * 
* by Symmetry License Agreement * 
************************************** 
* Model generated on Nov 5, 97 
* MODEL FORMAT: SPICE3 
* Symmetry POWER MOS Model (Version 1.0) 
* External Node Designations 
* Node 1 -> Drain 
* Node 2 -> Gate 
* Node 3 -> Source 
M1 9 7 8 8 MM L=100u W=100u 
* Default values used in MM: 
* The voltage-dependent capacitances are 
* not included. Other default values are: 
* RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0 
.MODEL MM NMOS LEVEL=1 IS=1e-32 
+VTO=3.87811 LAMBDA=0 KP=1.08675 
+CGSO=2.13885e-06 CGDO=1e-11 
RS 8 3 0.0001 
D1 3 1 MD 
.MODEL MD D IS=3.30702e-09 RS=0.0239792 N=1.49986 BV=200 
+IBV=0.00025 EG=1.2 XTI=3.06562 TT=1e-07 
+CJO=2.69505e-10 VJ=3.66167 M=0.9 FC=0.5 
RDS 3 1 1e+06 
RD 9 1 0.565114 
RG 2 7 6 
D2 4 5 MD1 
* Default values used in MD1: 
* RS=0 EG=1.11 XTI=3.0 TT=0 
* BV=infinite IBV=1mA 
.MODEL MD1 D IS=1e-32 N=50 
+CJO=4.81321e-10 VJ=0.783137 M=0.702765 FC=1e-08 
D3 0 5 MD2 
* Default values used in MD2: 
* EG=1.11 XTI=3.0 TT=0 CJO=0 
* BV=infinite IBV=1mA 
.MODEL MD2 D IS=1e-10 N=0.4 RS=3.00001e-06 
RL 5 10 1 
FI2 7 9 VFI2 -1 
VFI2 4 0 0 
EV16 10 0 9 7 1 
CAP 11 10 4.81321e-10 
FI1 7 9 VFI1 -1 
VFI1 11 6 0 
RCAP 6 10 1 
D4 0 6 MD3 
* Default values used in MD3: 
* EG=1.11 XTI=3.0 TT=0 CJO=0 
* RS=0 BV=infinite IBV=1mA 
.MODEL MD3 D IS=1e-10 N=0.4 
.ENDS irf620